US07919630B2
3-Allyl-2-thiohydantoin
Glycine (30 g, 0.40 mol), triethylamine (44 g, 0.44 mol), pyridine (100 mL), and water (100 mL) were mixed in a flask equipped with a magnetic stirrer and a temperature controller. Allyl isothiocyanate (44 g, 0.44 mol) was added, and the temperature was raised to 55° C. (the mixture became homogeneous at ca. 30°). When the mixture reached this temperature, it was allowed to cool to room temperature. The mixture was extracted with 3×200 mL of toluene to remove the pyridine and excess isothiocyanate and was then treated with 66 mL (0.8 mol) of concentrated hydrochloric acid. The mixture was heated at 90° C. for 2.5 hr and was then stirred rapidly while it cooled to room temperature. A solid mass of crystals formed instantaneously when the solution was seeded with a fragment of a crystal of authentic product. After the suspension stood at room temperature overnight, the product was collected and pressed with rubber dam. The filter cake was washed with 3×60 mL of water (the filter cake was pressed with rubber dam after each wash). After the material had dried to constant weight in a hood draft, it weighed 49 g (71% yield). NMR (CD3OD) δ 4.9-6.1 (m, 3H), 4.6 (s, 1H), 4.3 (d, 2H), 4.0 (s, 2H). HPLC analysis showed no other components at several wavelengths.

reactant | Glycine | 0.40 mol, 30 g | NCC(=O)O | C2H5NO2
reactant | triethylamine | 0.44 mol, 44 g | C(C)N(CC)CC | C6H15N
reactant | Allyl isothiocyanate | 0.44 mol, 44 g | C(C=C)N=C=S | C4H5NS
reactant | hydrochloric acid | 0.8 mol, 66 mL | Cl | ClH
solvent | water | 100 mL | O | H2O
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | 3-Allyl-2-thiohydantoin | 71% yield | C(C=C)N1C(NCC1=O)=S | C6H8N2OS
